US07897607B2
1-(Dipropylamino)-6-mesityl-4-oxo-4H-quinolizine-3-carbaldehyde
1-(Dipropylamino)-3-(hydroxymethyl)-6-mesityl-4H-quinolizin-4-one (0.60 g, 1.53 mmol) was dissolved in dichloromethane (20 mL) and acetonitrile (4 mL). 0.5 g of crushed sieves (4 angstroms) was added followed by N-methylmorpholine N-oxide (NMO) (0.27 g, 2.3 mmol). Tetrapropylammonium perruthenate (TPAP) (0.081 g, 0.23 mmol) was added last. The reaction stirred for 0.5 h. The solution was filtered and concentrated. Flash chromatography (20% ethyl acetate/hexanes) gave 0.436 g (73% yield) of the title compound as a red solid.

reactant | 1-(Dipropylamino)-3-(hydroxymethyl)-6-mesityl-4H-quinolizin-4-one | 1.53 mmol, 0.60 g | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)CO)CCC | C25H32N2O2
reactant | N-methylmorpholine N-oxide | 2.3 mmol, 0.27 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | Tetrapropylammonium perruthenate | 0.23 mmol, 0.081 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1-(Dipropylamino)-6-mesityl-4-oxo-4H-quinolizine-3-carbaldehyde | 0.436 g, 73% yield | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C=O)CCC | C25H30N2O2
